US07994185B2
2,6-difluoro-N-{2-fluoro-3-[5-(2-methyl-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide
Following a procedure analogous to the procedure described in Example 25 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (300 mg, 0.529 mmol) and dimethylzinc (529 μl, 1.058 mmol) at 80° C. for 3 hours, the title compound was obtained as a solid (60 mg, 31% yield). MS (ESI): 547.1 [M+H]+

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 0.529 mmol, 300 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C24H18ClF3N4O3S2
reactant | dimethylzinc | 1.058 mmol, 529 μl | C[Zn]C
product | 2,6-difluoro-N-{2-fluoro-3-[5-(2-methyl-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide | FC1=C(C(=CC=C1)F)S(=O)(=O)NC1=C(C(=CC=C1)C=1N=C(SC1C1=NC(=NC=C1)C)C1CCOCC1)F | C25H21F3N4O3S2
